US07807671B2
Preparation of (E)-1-(4-fluoro-7-(1-(hydroxyimino)ethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione
To a suspension of 1-(7-acetyl-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.05 g, 0.11 mmol) in EtOH (10 mL) was added hydroxylamine hydrochloride (0.04 g, 0.58 mmol). The mixture was heated to reflux for 1 h, and was then cooled to rt, and concentrated in vacuo. The residue was diluted with MeOH, and the solids that formed were collected and washed with water. The title compound was isolated as an off-white solid (0.027 g). LCMS: m/e 478.5 (M+H)+, ret time 1.53 min (method 1). 1H NMR (500 MHz, DMSO-D6) δ ppm 11.95 (s, 1 H) 11.61 (s, 1 H) 8.34 (d, J=1.83 Hz, 1 H) 8.30 (d, J=3.36 Hz, 1 H) 7.56-7.71 (m, 5 H) 3.68-3.72 (m, 2 H) 3.43-3.48 (m, 2 H) 3.30-3.34 (m, 2 H) 3.13-3.17 (m, 2 H) 2.35 (s, 3 H).

reactant | 1-(7-acetyl-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.11 mmol, 0.05 g | C(C)(=O)C=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C22H19FN8O3
reactant | hydroxylamine hydrochloride | 0.58 mmol, 0.04 g | Cl.NO
solvent | EtOH | 10 mL | CCO | C2H6O
product | (E)-1-(4-fluoro-7-(1-(hydroxyimino)ethyl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | FC1=C2C(=C(N=C1)/C(/C)=N/O)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O | C22H20FN9O3
